US04525576
In 300 ml of tetrahydrofuran were dissolved 40.0 g of N-t-butoxycarbonyl-leucyl-glycine and 38.8 g of pentachlorophenol, after which 30.0 g of dicyclohexylcarbodiimide (DCC) was added with ice-cooling, and the resulting mixture was subjected to reaction overnight. The insoluble material was collected by filtration and the solvent was removed by distillation to obtain a solid, which was recrystallized from ethyl acetate and petroleum ether to obtain N-t-butoxycarbonyl-leucyl-glycine-pentachlorophenyl ester. Yield: 65.9 g (88.5%). [α]D24 =-23.4° (C=1, dimethylformamide). Melting point (Mp): 155°-157° C.

reactant | N-t-butoxycarbonyl-leucyl-glycine | 40.0 g | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)O | C13H24N2O5
reactant | pentachlorophenol | 38.8 g | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl | C6HCl5O
reactant | dicyclohexylcarbodiimide | 30.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | N-t-butoxycarbonyl-leucyl-glycine-pentachlorophenyl ester | ClC1=C(C(=C(C(=C1OC(CNC([C@@H](NC(=O)OC(C)(C)C)CC(C)C)=O)=O)Cl)Cl)Cl)Cl | C19H23Cl5N2O5
